US04673508
Copoly(N-methyl-N-vinylacetamide/maleic anhydride) was prepared as follows. About 5 g of maleic anhydride free of maleic acid was dissolved in about 32 g of tetrahydrofuran. This solution was placed in a flask fitted with a dropping funnel, mechanical stirrer and nitrogen inlet. The dropping funnel was charged with about 4 g of N-methylvinylacetamide dissolved in about 13 g of tetrahydrofuran and 0.25 ml of 90% t-butyl hydroperoxide. The temperature of the reaction was adjusted to about 30° C., and the N-methyl-N-vinylacetamide solution was added dropwise over a period of about 4 hours. About 0.5 ml of a 1 Molar solution of triethylborane in hexane was added to the reaction flask at the beginning of the reaction run, and every hour thereafter. At the end of about 7 hours reaction time, the product polymer was precipitated by addition of about 50 ml of petroleum ether. Ths slurry was filtered and washed with diethylether and dried.

reactant | maleic anhydride | 5 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | maleic acid | C(\C=C/C(=O)O)(=O)O | C4H4O4
reactant | N-methylvinylacetamide | about 4 g | CC=CNC(C)=O | C5H9NO
reactant | N-methyl-N-vinylacetamide | CN(C(C)=O)C=C | C5H9NO
reactant | triethylborane | C(C)B(CC)CC | C6H15B
solvent | tetrahydrofuran | about 32 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | about 13 g | O1CCCC1 | C4H8O
solvent | t-butyl hydroperoxide | 0.25 ml | C(C)(C)(C)OO | C4H10O2
solvent | hexane | CCCCCC | C6H14
product | N-methyl-N-vinylacetamide maleic anhydride | CN(C(C)=O)C=C.C1(\C=C/C(=O)O1)=O | InChI=1S/C5H9NO.C4H2O3/c1-4-6(3)5(2)7;5-3-1-2-4(6)7-3/h4H,1H2,2-3H3;1-2H
